US04315095
N-Acetyl 2-amino-2-fluoromethyl-3-(5-imidazolyl)propionic acid
A solution of 1.87 g (0.01 mole) of 2-amino-2-fluoromethyl-3-(5-imidazolyl)propionic acid in 10 ml of 2 N sodium hydroxide solution is cooled to 5° C. To this solution, maintained at 5° C., are added simultaneously from two syringes 1.0 g (0.013 mole) of acetyl chloride and 26 ml 2 N sodium hydroxide dropwise. After 2 hours the solution is neutralized by the addition of 8 ml of 5 hydrochloric acid followed by 0.5 ml of acetic acid. The mixture is cooled to 0° C. and the resultant N-acetyl 2-amino-2-fluoromethyl-3-(5-imidazolyl)propionic acid filtered off.

reactant | 2-amino-2-fluoromethyl-3-(5-imidazolyl)propionic acid | 0.01 mole, 1.87 g | NC(C(=O)O)(CC1=CN=CN1)CF | C7H10FN3O2
reactant | acetyl chloride | 0.013 mole, 1.0 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 2 N, 10 ml | [OH-].[Na+]
solvent | sodium hydroxide | 2 N, 26 ml | [OH-].[Na+]
product | N-Acetyl 2-amino-2-fluoromethyl-3-(5-imidazolyl)propionic acid | C(C)(=O)NC(C(=O)O)(CC1=CN=CN1)CF | C9H12FN3O3
